US08604110B2
O-Xylene+Maleic Anhydride Radical Alkylation Using Air
To a 500 ml round bottom flask fitted with a mechanical stirrer, thermometer, air inlet bubbler and reflux condenser was added 65 g (0.61 moles) of o-xylene and 8.0 g (0.08 moles) of maleic anhydride. The solution was sparged with air then heated to reflux to initiate maleic anhydride free radical formation and then stirred for 6 hr. GC samples were taken at 2, 4 and 6 hr.

reactant | o-xylene | 0.61 moles, 65 g | CC=1C=CC=CC1C | C8H10
reactant | maleic anhydride | 0.08 moles, 8.0 g | C1(\C=C/C(=O)O1)=O | C4H2O3
product | O-Xylene Maleic Anhydride | CC=1C=CC=CC1C.C1(\C=C/C(=O)O1)=O | InChI=1S/C8H10.C4H2O3/c1-7-5-3-4-6-8(7)2;5-3-1-2-4(6)7-3/h3-6H,1-2H3;1-2H
